US06344483B1
Boc-L-Ala(ZnI)-OMe is reacted with Z-beta-Ala-Cl under conditions described in J. Org Chem 57, 1992, pp 3397-3404 to give a protected 4-keto-L-lysine which is then dissolved in DCM and treated with DAST to yield protected 4,4-difluoro-L-lysine. The epsilon carbobenzoxy protecting group is then removed under catalytic hydrogenolysis conditions. The resulting compound is reacted with methyl acetimidate hydrochloride to yield the epsilon amidine which was then reacted with 2 N HCl to give the title compound.

reactant | Boc-L-Ala(ZnI)-OMe | N([C@@H](C[Zn]I)C(=O)OC)C(=O)OC(C)(C)C
reactant | Z-beta-Ala-Cl | N(CCC(=O)Cl)C(=O)OCC1=CC=CC=C1 | C11H12ClNO3
product | 4-keto-L-lysine | O=C(C[C@H](N)C(=O)O)CCN | C6H12N2O3
